US04359420
A mixture of 3.5 g (11.5 mmol) of ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate, 0.15 g of potassium cyanide and 40 ml of methanol is stirred at the boiling point for 2.5 hours. The solvent is distilled off on a rotary evaporator and the residue is taken up in chloroform. After filtration from insoluble material, the filtrate is concentrated. After recrystallisation of the residue from ethyl acetate, there is obtained methyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 195°-196.5° C.

reactant | ethyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 11.5 mmol, 3.5 g | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OCC)C)=O)C1 | C15H14FN3O3
reactant | potassium cyanide | 0.15 g | [C-]#N.[K+]
solvent | methanol | 40 ml | CO | CH4O
product | methyl 8-fluoro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | FC=1C=CC2=C(C(N(CC=3N2C=NC3C(=O)OC)C)=O)C1 | C14H12FN3O3
